US09334269B2
A solution of 1-benzyl-3-(2-oxo-2-phenylethyl)piperidin-4-one (4.0 g, 0.0129 mol) in conc. HCl (50 mL) was heated at reflux for 3 h. After consumption of the starting material as determined by TLC, the reaction mixture was cooled down to RT and made alkaline by the addition of NH4OH, then extracted with diethyl ether. The organics were dried over Na2SO4 and concentrated to afford 5-benzyl-2-phenyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine (2.0 g, 66.66%) as a white solid.

reactant | 1-benzyl-3-(2-oxo-2-phenylethyl)piperidin-4-one | 0.0129 mol, 4.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)CC(C1=CC=CC=C1)=O | C20H21NO2
solvent | HCl | 50 mL | Cl | ClH
product | 5-benzyl-2-phenyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | 2.0 g, 66.66% | C(C1=CC=CC=C1)N1CC2=C(CC1)OC(=C2)C2=CC=CC=C2 | C20H19NO
